US06846835B2
Synthesis of (2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylacetic acid
To a solution of 2.4 g of (2R,5R)-2-(t-butyl)-5-((1R)-3,3-difluorocyclopentyl)-5-phenyl-1,3-dioxolan-4-one in 30 ml of methanol, 10 ml of 1N aqueous sodium hydroxide solution was added, followed by 3 hours' stirring at room temperature. Distilling the methanol off under reduced pressure, the reaction liquid was diluted with water and washed with diethyl ether. The aqueous layer was acidified with 1N hydrochloric acid and extracted from diethyl ether, and the organic layer was dried over anhydrous magnesium sulfate. Distilling the solvent off under reduced pressure, 1.66 g of the title compound was obtained.

reactant | (2R,5R)-2-(t-butyl)-5-((1R)-3,3-difluorocyclopentyl)-5-phenyl-1,3-dioxolan-4-one | 2.4 g | C(C)(C)(C)[C@@H]1O[C@@](C(O1)=O)(C1=CC=CC=C1)[C@H]1CC(CC1)(F)F | C18H22F2O3
solvent | methanol | 30 ml | CO | CH4O
solvent | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
solvent | water | O | H2O
product | (2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylacetic acid | 1.66 g | FC1(C[C@@H](CC1)[C@](C(=O)O)(C1=CC=CC=C1)O)F | C13H14F2O3
